US06153608
Hexahydro-2-methyl-1-[(4-methyl-5-isoquinolinyl)sulfonyl]-1H-1,4-diazepine hydrochloride
Using 1.07 g of 4-(tert-butoxycarbonyl)-hexahydro-2-methyl-1H-1,4-diazepine prepared by protecting the 4-position of hexahydro-2-methyl-1H-1,4-diazepine (2.8 g) synthesized in accordance with J. Med. Chem., 1990, 33, 142 and 1.21 g of 5-chlorosulfonyl-4-methylisoquinoline, the procedure of Example 1 was otherwise repeated to provide 0.27 g of the objective compound (white crystals).

reactant | 4-(tert-butoxycarbonyl)-hexahydro-2-methyl-1H-1,4-diazepine | 1.07 g | C(C)(C)(C)OC(=O)N1CC(NCCC1)C | C11H22N2O2
reactant | hexahydro-2-methyl-1H-1,4-diazepine | 2.8 g | CC1NCCCNC1 | C6H14N2
reactant | 5-chlorosulfonyl-4-methylisoquinoline | 1.21 g | ClS(=O)(=O)C1=C2C(=CN=CC2=CC=C1)C | C10H8ClNO2S
product | Hexahydro-2-methyl-1-[(4-methyl-5-isoquinolinyl)sulfonyl]-1H-1,4-diazepine hydrochloride | 0.27 g | Cl.CC1N(CCCNC1)S(=O)(=O)C1=C2C(=CN=CC2=CC=C1)C | InChI=1S/C16H21N3O2S.ClH/c1-12-9-18-11-14-5-3-6-15(16(12)14)22(20,21)19-8-4-7-17-10-13(19)2;/h3,5-6,9,11,13,17H,4,7-8,10H2,1-2H3;1H
